US06686369B1
2-Hydroxy-3,3-diphenylbutyramide
10.0 g (4.22 [sic] mmol) of 2-hydroxy-3,3-diphenylbutyronitrile were dissolved in 500 ml of methanol (abs.) and, at 5-10° C., HCl was passed in for 3 hours. The mixture was then stirred at 5° C. for 3 hours and at room temperature for 16 hours. Then 200 ml of 6 molar HCl were added and the mixture was evaporated to dryness under reduced pressure. The crude product was recrystallized from an ethyl acetate/heptane mixture. 2.5 g (23%) of 2-hydroxy-3,3-dihenylbutyramide were obtained as a white solid.

reactant | 2-hydroxy-3,3-diphenylbutyronitrile | 10.0 g | OC(C#N)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H15NO
reactant | HCl | Cl | ClH
reactant | HCl | 6 molar, 200 ml | Cl | ClH
reactant | methanol | 500 ml | CO | CH4O
product | 2-Hydroxy-3,3-diphenylbutyramide | OC(C(=O)N)C(C)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H17NO2
